US06303542B1
A solution of 2-nitro-benzoyl chloride (2.04 g, 90% purity, 10 mmol) in CH2Cl2 (20 mL) was added dropwise into a mixture of 7-fluoro-6-amino-2H-1,4-benzoxazin-3-(4H)-one (1.78 g, 10 mmol) and triethylamine (1.1 g, 11 mmol) in CH2Cl2 (20 mL) over 10 min with ice-water bath cooling. The reaction mixture was then stirred at room temperature overnight. The mixture was poured into water and the resulting precipitate was collected by suction-filtration and washed with hexane and then water to give 7-fluoro-6-(2-nitrobenzoyl)amino-2H-1,4-benzoxazin-3-(4H)-one, 2.9 g (yield: 92%) as a solid: mp >248° C.

reactant | 2-nitro-benzoyl chloride | 10 mmol, 2.04 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | 7-fluoro-6-amino-2H-1,4-benzoxazin-3-(4H)-one | 10 mmol, 1.78 g | FC1=CC2=C(NC(CO2)=O)C=C1N | C8H7FN2O2
reactant | triethylamine | 11 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 7-fluoro-6-(2-nitrobenzoyl)amino-2H-1,4-benzoxazin-3-(4H)-one | yield: 92% | FC1=CC2=C(NC(CO2)=O)C=C1NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C15H10FN3O5
